US09260390B2
Under a nitrogen atmosphere, 150 g of dibenzofuran and 1 l of acetic acid were loaded into a 300-ml three-necked flask, and then the contents were dissolved under heat. 188 Grams of bromine were added dropwise to the solution. After that, the mixture was stirred for 20 hours under air cooling. The precipitated crystal was separated by filtration, and was then sequentially washed with acetic acid and water. The washed crystal was dried under reduced pressure. The resultant crystal was purified by distillation under reduced pressure, and was then repeatedly recrystallized with methanol several times. Thus, 66.8 g of 2-bromodibenzofuran were obtained.

reactant | dibenzofuran | 150 g | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
reactant | bromine | BrBr | Br2
solvent | acetic acid | 1 l | C(C)(=O)O | C2H4O2
product | 2-bromodibenzofuran | 66.8 g | BrC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H7BrO
